US07214694B2
Preparation 47: tert-butyl(3R)-3-[3-({[(tert-butylamino)sulfonyl]amino}methyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoate
Method as for preparation 10 using tert-butyl(3R)-3-[3-(aminomethyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoate (preparation 18) (200 mg, 0.57 mmol) and N-tert-butylsulfamoyl chloride (J. Org. Chem.; 1976, 41, 4028) (108 mg, 0.63 mmol) as starting materials and pyridine as base.

reactant | tert-butyl(3R)-3-[3-(aminomethyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoate | 0.57 mmol, 200 mg | NCC1=NOC(=N1)[C@@H](CC(=O)OC(C)(C)C)CCCC1CCCCC1 | C19H33N3O3
reactant | N-tert-butylsulfamoyl chloride | 0.63 mmol, 108 mg | C(C)(C)(C)NS(=O)(=O)Cl | C4H10ClNO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | tert-butyl(3R)-3-[3-({[(tert-butylamino)sulfonyl]amino}methyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoate | C(C)(C)(C)NS(=O)(=O)NCC1=NOC(=N1)[C@@H](CC(=O)OC(C)(C)C)CCCC1CCCCC1 | C23H42N4O5S
